US07371777B2
t-Butyl N-[5-(hydroxymethyl)-2-methoxybenzyl]carbamate
1.8 g of t-butyl N-(5-formyl-2-methoxybenzyl)carbamate was dissolved in 12 ml of ethanol and 6 ml of tetrahydrofuran, and 0.15 g of sodium borohydride was added. After stirring at room temperature overnight, water was added and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was removed. The residue was purified by silica gel column chromatography, to give 1.65 g of the title compound from the 1:1 hexane-ethyl acetate fraction.

reactant | t-butyl N-(5-formyl-2-methoxybenzyl)carbamate | 1.8 g | C(=O)C=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C14H19NO4
reactant | sodium borohydride | 0.15 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | t-Butyl N-[5-(hydroxymethyl)-2-methoxybenzyl]carbamate | 1.65 g | OCC=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C14H21NO4
